### PR TITLE
adapt to rocq-prover/rocq#20707

### PR DESCRIPTION
**Pull request by gares**
##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by proux01** [comment]
@gares you can change the line
https://github.com/math-comp/math-comp/blob/22134b7c73031cf5f823b10df41adfcbd4a577ff/.nix/config.nix#L87
to something like `rocq-core.override.version = "gares:ssrpat-FO-ignore-imparg";`
so that the CI here runs and we get an idea of what breaks beyond mathcomp itself

**Comment by proux01** [comment]
You can edit the _CoqProject and directory/Make files.

File: algebra/rat.v [hunk 1]
```diff
@@ -31,6 +31,7 @@ Import Order.TTheory GRing.Theory Num.Theory.
 Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
+Set SsrMatching LegacyFoUnif.
```
Comment (gares) [inline algebra/rat.v]: @CohenCyril you know this file well, I just gave up

File: character/mxrepresentation.v [hunk 2]
```diff
@@ -2671,7 +2671,7 @@ Lemma morphim_mx_abs_irr :
   mx_absolutely_irreducible rG = mx_absolutely_irreducible rGf.
 Proof.
 have fG_onto: f @* G \subset restrm sGD f @* G.
-  by rewrite morphim_restrm setIid.
+  by rewrite (morphim_restrm sGD) setIid.
```
Comment (gares) [inline character/mxrepresentation.v:2674]: This is a general program of this lemma, in general it unfolds too much without an explicit proof

File: fingroup/morphism.v [hunk 3]
```diff
@@ -144,7 +144,10 @@ Arguments morphpre _ _ _%_g _ _ _%_g.
 Notation "''dom' f" := (dom (MorPhantom f))
   (at level 10, f at level 8, format "''dom'  f") : group_scope.
 
-Notation "''ker' f" := (ker (MorPhantom f))
+Arguments ker [aT rT][D]%_set_scope [f] _,
+              [aT rT][D]             _  _.
```
Comment (gares) [inline fingroup/morphism.v]: This is my hack to compare the real argument and not the phantom

File: character/mxrepresentation.v (hunk 2 above)
Comment (ybertot) [reply character/mxrepresentation.v:2674]: you meant problem?

File: algebra/rat.v (hunk 1 above)
Comment (proux01) [reply algebra/rat.v]: done

**Review by proux01 — APPROVED** [review]
